US06350753B1
2-benzoyloxymethyl-4-hydroxymethyl-1,3-dioxolane
Starting material XXV (41.6) was treated with potassium benzoate (65.56 g) in boiling dimethyl formamide containing 100 mg of 18-crown-6 for 24 h after which time the mixture was worked up in the usual manner and the product (51.02 g) characterized by its 1H NMR spectrum (CDCl3;TMS): δ(ppm):

reactant | potassium benzoate | 65.56 g | C(C1=CC=CC=C1)(=O)[O-].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | dimethyl formamide | 100 mg | CN(C=O)C | C3H7NO
product | 2-benzoyloxymethyl-4-hydroxymethyl-1,3-dioxolane | C(C1=CC=CC=C1)(=O)OCC1OCC(O1)CO | C12H14O5
